* Testcase 000212 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources

* Circuit
RS B N1 10k
L N1 C 10n
RB B B_PRIME 10k
C_PI B_PRIME GND 1p
R_PI B_PRIME GND 10k
GM C GND 1u
RO C GND 10k
C1 C GND 1p

.control
set filetype=ascii

ac dec 100 1 10g
let vout_mag = vm(B_PRIME)
let gain_db = db(vout_mag)

meas ac max_gain_db MAX gain_db
meas ac bw_3db WHEN gain_db='max_gain_db-3' CROSS=1

print max_gain_db bw_3db

quit
.endc

.end
